US05391541
To a flask in which had been placed 47.20 grams (0.20 mole) of 2,5-dichloro-3-nitrobenzoic acid and 40.0 grams (0.326 mole) of granular tin were added, with good agitation, 200 mL of water and 200 mL of concentrated hydrochloric acid. The stirred reaction mixture was heated at 95° C. for 4.5 hours and at the conclusion of this period was poured over ice, causing a solid to form. This solid was removed by filtration and washed with water, then dissolved in ethyl acetate. This solution was washed three times with water and once with a saturated aqueous solution of sodium chloride. After being dried over anhydrous sodium sulfate and filtered, the solution was evaporated under reduced pressure to yield solid 3-amino-2,5-dichlorobenzoic acid, weighing 39.25 grams.

reactant | 2,5-dichloro-3-nitrobenzoic acid | 0.20 mole, 47.20 grams | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | tin | 0.326 mole, 40.0 grams | [Sn] | Sn
reactant | hydrochloric acid | 200 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 3-amino-2,5-dichlorobenzoic acid | NC=1C(=C(C(=O)O)C=C(C1)Cl)Cl | C7H5Cl2NO2
